US05807887
To a solution of 0.14 g of 5-acetoxymethyl-4,6-difluorobenzo[b]thiophene in 5 ml of methanol is added 0.03 g of potassium hydroxide at room temperature, and thereafter, the resulting mixture is stirred at the same temperature for 30 minutes. After the reaction, 10 ml of water and 10 ml of ethyl acetate are added to the thus stirred reaction mixture. The resulting organic layer is separated, washed successively with water and a saturated saline solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent is removed from the thus dried layer by distillation under reduced pressure to obtain 0.12 g of colorless, oily 5-hydroxymethyl-4,6-difluorobenzo[b]thiophene.

reactant | 5-acetoxymethyl-4,6-difluorobenzo[b]thiophene | 0.14 g | C(C)(=O)OCC1=C(C2=C(SC=C2)C=C1F)F | C11H8F2O2S
reactant | potassium hydroxide | 0.03 g | [OH-].[K+]
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 5-hydroxymethyl-4,6-difluorobenzo[b]thiophene | OCC1=C(C2=C(SC=C2)C=C1F)F | C9H6F2OS
